US08470841B2
31a N—[(S)-3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide
4-((S)-3-Aminobutyl)phenol (1.3 g, 7.87 mmol) was reacted with acetic anhydride in analogy to example 2a. Yield: 1.24 g (76%), M+H+: 208.13.

reactant | 4-((S)-3-Aminobutyl)phenol | 7.87 mmol, 1.3 g | N[C@H](CCC1=CC=C(C=C1)O)C | C10H15NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N—[(S)-3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide | OC1=CC=C(C=C1)CC[C@H](C)NC(C)=O | C12H17NO2
